US07595314B2
5-(Cyclopropylmethyl-sulfamoyl)-2-morpholin-4-yl-benzoic acid
The title compound was synthesised according to the procedure described for the synthesis of 5-Methanesulfonyl-2-pyrrolidin-1-yl-benzoic acid from 2-Chloro-5-(cyclopropylmethyl-sulfamoyl)-benzoic acid and morpholine and obtained in 33% yield.

reactant | 5-Methanesulfonyl-2-pyrrolidin-1-yl-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)N1CCCC1 | C12H15NO4S
reactant | 2-Chloro-5-(cyclopropylmethyl-sulfamoyl)-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(NCC1CC1)(=O)=O | C11H12ClNO4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-(Cyclopropylmethyl-sulfamoyl)-2-morpholin-4-yl-benzoic acid | 33% yield | C1(CC1)CNS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)N1CCOCC1 | C15H20N2O5S
